US03956260
41. Z-His-Arg-Phe-Ser(tBu)-Gly-OCH3
7.6 g of Z-His-NH-NH2 (25 mmols) are suspended in 60 ml of dimethylformamide, 31 ml of hydrogen chloride in ether (2.43 N,. 75.3 mmols) are added at -16°C and the clear yellowish solution thereby obtained is mixed, at -18°C, with 3.2 ml of t-butyl nitrite (95 % strength, 26.5 mmols) in 10 ml of dimethylformamide. After 10 minutes 10.4 ml of triethylamine (75 mmols) in 25 ml of pre-cooled dimethylformamide, and 8.5 g of H-Arg-Phe-Ser(tBu)-Gly-OCH3. 2 HCl (14 mmols) in 50 ml of pre-cooled dimethylformamide are added. The mixture is diluted with 40 ml of dimethylformamide and four portions each of 1.0 ml of triethylamine (a total of 28.7 mmols) are added in intervals of 5 minutes. The mixture is allowed to stand for a further 3 hours at 0°C and for 20 hours at room temperature, the precipitated salts are then filtered off, and the reaction solution is concentrated in vacuo to about three-fourths of its volume. On repeatedly stirring the product into a large amount of ethyl acetate a crude product is obtained which is purified by counter-current distibution in the system methanol-buffer-chloroform-carbon tetrachloride (9:3.5:8:2) through 130 stages (buffer as under 18); rmax = 54; K = 0.7. The pure fractions are combined, evaporated, freed of ammonium acetate in a high vacuum at 40°C, and lyophilised after solution in water.

reactant | Z-His-NH-NH2 | 25 mmols, 7.6 g | N([C@@H](CC1=CNC=N1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C14H17N5O3
reactant | hydrogen chloride | 31 ml | Cl | ClH
reactant | ether | 75.3 mmols, 2.43 N | CCOCC | C4H10O
reactant | t-butyl nitrite | 26.5 mmols, 3.2 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | H-Arg-Phe-Ser(tBu)-Gly-OCH3 | 8.5 g | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC | C25H41N7O6
reactant | HCl | 14 mmols | Cl | ClH
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 75 mmols, 10.4 ml | C(C)N(CC)CC | C6H15N
product | Z-His-Arg-Phe-Ser(tBu)-Gly-OCH3 | N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1 | C39H54N10O9
